US05527905
3(a) 14 g of benzyl 1-(2,4-dimethoxybenzyl)-3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate [which had been synthesized according to a procedure similar to that described in Tetrahedron 46, 1795 (1984)] were dissolved in a mixture of 420 ml of acetonitrile and 420 ml of water. 66.1 g of potassium persulfate and 23.3 g of dibasic potassium phosphate were added to the solution, and the mixture was stirred at 70° C. for 60 minutes. At the end of this time, insoluble materials were filtered off, and the filtrate was concentrated by evaporation under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and freed from the solvent by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel to afford 6.1 g of benzyl 3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate.

reactant | benzyl 1-(2,4-dimethoxybenzyl)-3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate | COC1=C(CN2C(C(C2C(=O)OCC2=CC=CC=C2)[C@@H](C)O)=O)C=CC(=C1)OC | C22H25NO6
reactant | potassium persulfate | 66.1 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium phosphate | 23.3 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 420 ml | C(C)#N | C2H3N
solvent | water | 420 ml | O | H2O
product | benzyl 3-[(R)-1-hydroxyethyl]-2-oxoazetidine-4-carboxylate | 6.1 g | O[C@H](C)C1C(NC1C(=O)OCC1=CC=CC=C1)=O | C13H15NO4
